US07087599B2
A mixture of 9a-[(1E)-1-butenyl]-7-methoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (31.7 mg, 0.112 mmol) and pyridine hydrochloride (384 mg, 3.32 mmol) was placed under a nitrogen atmosphere and heated in an oil bath at 190° C. for 65 minutes. After cooling to room temperature, the reaction mixture was partitioned between water (4 ml) and EtOAc (10 mL). The organic phase was recovered, washed with brine (5 mL), dried over MgSO4, filtered, and evaporated under vacuum to an oil (30 mg). The crude product was purified by silica gel chromatography on a Biotage FLASH 12S column (1.2×7.5 cm), eluting with 3:1 hexanes-EtOAc. The product containing fractions were concentrated under vacuum and the residue lyophilized from benzene to provide 9a-[(1E)-1-butenyl]-7-hydroxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one as a yellow, amorphous solid.

reactant | 9a-[(1E)-1-butenyl]-7-methoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.112 mmol, 31.7 mg | C(=C\CC)/C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C)OC | C19H22O2
reactant | pyridine hydrochloride | 3.32 mmol, 384 mg | Cl.N1=CC=CC=C1
product | 9a-[(1E)-1-butenyl]-7-hydroxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(=C\CC)/C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C)O | C18H20O2
